US06002008
4-[(3,4-Difluorophenyl)amino]-6-nitro-3-quinolinecarbonitrile
A mixture of 5.00 g (21.5 mmol) 4-chloro-6-nitro-3-quinolinecarbonitrile, 250 ml ethanol and 2.55 ml (25.8 mmol) 3,4-difluoroaniline was heated to reflux under N2. Removed heat at 3.5 hours and made basic with saturated sodium bicarbonate. Stripped solvents and azeotroped with ethanol. Slurried residue with hexane, collected solids and air dried. Washed with water and dried in vacuo. Dissolved in ethyl acetate, stirred with Darco, filtered, stripped solvent and dried in vacuo, giving 5.02 g of yellow solid: mass spectrum (electrospray m/e): M+H=327.1.

reactant | 4-chloro-6-nitro-3-quinolinecarbonitrile | 21.5 mmol, 5.00 g | ClC1=C(C=NC2=CC=C(C=C12)[N+](=O)[O-])C#N | C10H4ClN3O2
reactant | 3,4-difluoroaniline | 25.8 mmol, 2.55 ml | FC=1C=C(N)C=CC1F | C6H5F2N
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 4-[(3,4-Difluorophenyl)amino]-6-nitro-3-quinolinecarbonitrile | 5.02 g | FC=1C=C(C=CC1F)NC1=C(C=NC2=CC=C(C=C12)[N+](=O)[O-])C#N | C16H8F2N4O2
